US06693108B2
5-Methyl-3-phenyl-isoxazole-4-carboxylic Acid.
To 5-Methyl-3-phenyl-isoxazole-4-carboxylic acid methyl ester (0.853 g, 3.69 mmol) in methanol (12 mL) was added 2N NaOH (8 mL) the reaction solution was stirred at ambient temperature for 60 hr. The solution was dilute with water and extracted twice with ethyl acetate. The combined extract was washed with brine and dried over MgSO4 and concentrated. Recrystallization (hexanes/ethyl acetate) afforded a white solid (0.540 g, 72% yield).

reactant | 5-Methyl-3-phenyl-isoxazole-4-carboxylic acid methyl ester | 3.69 mmol, 0.853 g | COC(=O)C=1C(=NOC1C)C1=CC=CC=C1 | C12H11NO3
reactant | NaOH | 2N, 8 mL | [OH-].[Na+]
solvent | methanol | 12 mL | CO | CH4O
solvent | water | O | H2O
product | 5-Methyl-3-phenyl-isoxazole-4-carboxylic Acid | 0.540 g, 72% yield | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)O | C11H9NO3
